data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][C:21](C)(C)[C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:22](=[C:21](C)C)[O-:23] 10=20;22,23=23;20,21=21,22
CCCCC(=O)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)[O-:10])C)C.CCCC[P+:20](CCCC)(CCCC)SC1=CC=C(C=C1)Cl.C1CC(=O)NC1=O>>CCCCC(=O)C1CCC2C1(CCC3C2CCC4C3(CCC(C4)[O:10][P:20](CCCC)(CCCC)(CCCC)SC5=CC=C(C=C5)Cl)C)C.C1CC(=O)NC1=O 10=20,
[H:20][N+:21](=CN(C)C)C.C[S+](C)[CH2-:10]>>[H:20][CH2:10][S+](C)C.C[N:21]=CN(C)C 10=20;20,21=21
C=C[CH:20]1C[Br+:21]1.[OH2:10]>>C=C[CH:20](C[Br:21])[OH2+:10] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCCCCCCCC=CCCCCCCCC(=O)OCC1COC([O:10]1)(C)C.C1CCOC1.O>>[H:20][O+:10]1C(COC1(C)C)COC(=O)CCCCCCCC=CCCCCCCCC.C(=O)(C(F)(F)F)[O-:21].C1CCOC1.O 10=20;20,21=21
C[C:10]1=[C:11](CCC2([C:20]1(CCCC2=O)[OH2+:21])C)[OH:12].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)[O-])[NH3+].C1=CC=C(C=C1)CC(C(=O)O)N>>C[C:10]1=[C:20]2CCCC(=O)C2(CC[C:11]1=[OH+:12])C.[OH2:21].CC1(C2CCC1(C(=O)C2)CS(=O)(=O)[O-])C.C1=CC=C(C=C1)CC(C(=O)[O-])[NH3+].C1=CC=C(C=C1)CC(C(=O)O)N 10,11=10,20;20,21=21;12=11
[H:20][OH2+:21].CCC1CC[C:11](=[CH:10]1)C>>[H:20][CH:10]1C(CC[C+:11]1C)CC.[OH2:21] 10,11=10,20;20,21=21
[H:20][OH2+:21].CCOP(=O)(C(C)C(=O)CC1CCCC1(O)[O:10]CCO)OCC.CCO.[Cl-]>>[H:20][O+:10](CCO)C1(CCCC1CC(=O)C(C)P(=O)(OCC)OCC)O.[OH2:21].CCO.[Cl-] 10=20;20,21=21
[H:20][CH:21]1CC2(CC[C:22]1=[N+:23]3CCOCC3)OCCO2.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1CC2(C[CH:21]=[C:22]1[N:23]3CCOCC3)OCCO2.CC1=CC=C(C=C1)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
C[C+:20]=O.CO[C:11]1=[CH:10]OC=C1>>C[C:20](=O)[CH:10]1[C+:11](C=CO1)OC 10,11=10,20
[H:20][NH+:21](CC)C(C)([O-])OCC.[OH2:10]>>[H:20][OH2+:10].CC[NH:21]C(C)([O-])OCC 10=20;20,21=21
C1CNC2=[N:10]CCCN2C1.C1=CC=C(C=C1)[CH2:20][Br:21]>>C1CNC2=[N+:10](CCCN2C1)[CH2:20]C3=CC=CC=C3.[Br-:21] 10=20;20,21=21
C[P+:21](C)(C)[NH:20][N:10]=[CH:11][O-:12]>>C[P:21](C)C.[CH:11](=[O:12])[N:10]=[NH:20] 10,11=10,20;20,21=21;12=11
C[N+:21](=[C:20]1OCCCO1)C.[OH2:10]>>C[N:21](C)[C:20]1(OCCCO1)[OH2+:10] 10=20;20,21=21
[H:20][OH:21].[Li][O:10]C1C2C3CCC(C3)C1(C4C2CC=C4)Cl>>[H:20][O+:10]([Li])C1C2C3CCC(C3)C1(C4C2CC=C4)Cl.[OH-:21] 10=20;20,21=21
CC(=O)[O:21][C:20](CCC=O)(NC)[O-:10]>>CC(=O)[O-:21].CN[C:20](=[O:10])CCC=O 10=20;20,21=21
[H:20][Br:21].CCC1(C[O:10]1)C>>[H:20][O+:10]1CC1(C)CC.[Br-:21] 10=20;20,21=21
C1=CNC(=N)[NH:10][C:20]1=[NH2+:21].[C-]#N.O>>C1=CNC(=N)[NH+:10]=[C:20]1[NH2:21].[C-]#N.O 10=20;20,21=21
C[CH:20](C([C:10]1=[CH:11]C=C(C=C1)OC)(OC)OC)[O:21]S(=O)(=O)C>>C[CH:20]1[C:10]2(C1(OC)OC)C=CC(=C[CH+:11]2)OC.CS(=O)(=O)[O-:21] 10,11=10,20;20,21=21
[H:20][C:21](C)([CH:22]=[N+:23]([Li-][N:10](C(C)C)C(C)C)C(C)(C)C)[Si](CC)(CC)CC>>[H:20][N+:10]([Li-][N:23]([CH:22]=[C:21](C)[Si](CC)(CC)CC)C(C)(C)C)(C(C)C)C(C)C 10=20;22,23=23;20,21=21,22
CC1=C[C:20](CCC1)([NH:10]N2CCCC2COC)[OH2+:21].COCC1CCCN1N>>CC1=C[C:20](=[NH+:10]N2CCCC2COC)CCC1.COCC1CCCN1N.[OH2:21] 10=20;20,21=21
C#CCOC1=CC(=CC(=C1)C[O-:10])OCC#C.C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>C#CCOC1=CC(=CC(=C1)C[O:10][P:20](C2=CC=CC=C2)(C3=CC=CC=C3)(C4=CC=CC=C4)Br)OCC#C.C(Br)(Br)Br 10=20,
[CH+:20]=C=CC1=CC=C(C=C1)OCCCCC2=CNC=N2.[OH2:10].CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3>>C1=CC(=CC=C1C=C=[CH:20][OH2+:10])OCCCCC2=CNC=N2.CCO.C1=CC=C(C=C1)[C+](C2=CC=CC=C2)C3=CC=CC=C3 10=20,
C[P:10](C)C.[CH:22](=[O:23])[N:21]=[NH:20]>>C[P+:10](C)(C)[NH:20][N:21]=[CH:22][O-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21]1C(C(C[C:22]1=[O:23])(C)C)O.[OH-:10]>>[H:20][OH:10].CC1(C[C:22](=[CH:21]C1O)[O-:23])C 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])OCC=C.C1CCC2=[N:10]CCCN2CC1.CC1=CC=C(C=C1)S(=O)(=O)[N-][N+]#N.CC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-]>>[H:20][N+:10]1=C2CCCCCN2CCC1.C=CCO[C:22](=[CH:21]C1=CC=CC=C1)[O-:23].CC1=CC=C(C=C1)S(=O)(=O)[N-][N+]#N.CC1=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-] 10=20;22,23=23;20,21=21,22
[CH:20](=[NH2+:21])O.[I-:10]>>[CH:20]([NH2:21])(O)[I:10] 10=20;20,21=21
C[Si:20](C)(C)C[CH+]CC1(CCCC=C1)O[Ti-](Cl)(Cl)(Cl)Cl.[Cl-:10]>>C[Si-:20](C)(C)(C[CH+]CC1(CCCC=C1)O[Ti-](Cl)(Cl)(Cl)Cl)[Cl:10] 10=20,
[Li+:20].CC(C1=CC=CC=C1)(N(C)OC)[O-:10]>>[Li:20][O:10]C(C)(C1=CC=CC=C1)N(C)OC 10=20,
C[C+:20](C)C.[OH2:10].Cl>>C[C:20](C)(C)[OH2+:10].Cl 10=20,
[H:20][O:21]C.C[C:10]1=[C:11](CC(CC(=C)C1)C(=O)OC)[O-:12].[Na+]>>[H:20][C:10]1(CC(=C)CC(C[C:11]1=[O:12])C(=O)OC)C.C[O-:21].[Na+] 10,11=10,20;20,21=21;12=11
C[SH:10].[OH:20][OH:21]>>C[SH+:10][OH:20].[OH-:21] 10=20;20,21=21
CCS[C:20](C=C)([OH:10])[Cl:21]>>CCS[C:20](=[OH+:10])C=C.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](CC)S(C)(C)OS(=O)(=O)[O-].C[N:10](C)C>>[H:20][N+:10](C)(C)C.CC[O:21]S(C)(C)OS(=O)(=O)[O-] 10=20;20,21=21
C(CO)C[OH:10].[O:21]=[S:20](Cl)Cl>>C(CO)C[OH+:10][S:20]([O-:21])(Cl)Cl 10=20;20,21=21
[H:20][C:21]12[CH+:22]C(=C(C=C1CCNC2C)O)O.[OH2:10]>>[H:20][OH2+:10].CC1[C:21]2=[CH:22]C(=C(C=C2CCN1)O)O 10=20;20,21=21,22
CC(=C)[C:20](=[O:21])C.C[C:10](=C)[Mg:11]Br>>CC(=C)[C:20](C)([C:10](=C)C)[O-:21].[Mg+:11]Br 10,11=10,20;20,21=21
CC=[C+:20]C.[OH2:10]>>CC=[C:20](C)[OH2+:10] 10=20,
CCO[C:20](C)([OH:10])[OH+:21]C>>CCO[C:20](=[OH+:10])C.C[OH:21] 10=20;20,21=21
